Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13].[H:1]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13],-4.32071311405
[C:4]=[C:5]([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-0.509336567659
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-7.00901849977
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[O:8]=[C:9][H:10],-0.429447763421
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:6]([H:7])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],4.68189334621
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3],5.27410966436
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:3]([H:4])([H:5])=[C:10]=[C:11]([H:12])[H:13].[H:1][C:2][C:7]([H:6])([H:8])[H:9],2.09460646568
[C:3](#[C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.259759370169999
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:15],5.21033990338
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[O:9][H:10]>>[H:1].[O:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[O:9][H:10],3.08387481903
[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([C:4][O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:5],3.76470090302
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:11]([H:12])([H:13])[O:14][H:15],5.17260787982
[C:4]([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.5019946839300005
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.26023358945
[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1],4.1324563135100005
[H:1][C:2][O:4][C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.6315261873
[H:15].[H:1][O:2][C:3]([C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4](/[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.34994035733
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[H:5],1.1010547972799998
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:3],4.1141833315300005
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2](/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.70585214043
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:1]#[C:2][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[C:3]([H:4])([H:5])[H:6],3.5011500072
[H:1][O:2][C:3]([C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])=[C:10][H:11],5.14713897453
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11],1.74642329035
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1([H:11])[O:12][O:13]1>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][O:13],1.09134750446
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1,3.7513071873300015
[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-3.5596870809800003
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.6079891198299998
